US07777047B2
N-methyl-N-{2-[5-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}pyridine-3-sulfonamide
To a mixture of triphenylphosphine oxide (790 mg) and acetonitrile (15 mL) was added trifluoromethanesulfonic anhydride (238 μL), and the mixture was stirred at 0° C. for 10 min. A solution of N-[2-(benzylthio)-3-morpholinopropyl]-7-[methyl(pyridin-3-ylsulfonyl)amino]-1H-indole-2-carboxamide (410 mg) and dimethylsulfide (52 μL) in acetonitrile (15 mL) and dichloromethane (15 mL) was added to the mixture, and the mixture was stirred at 0° C. for 2 hr. The reaction mixture was diluted with ethyl acetate (100 mL) and saturated brine (100 mL). The organic layer was dried over sodium sulfate, and filtrated, and the filtrate was concentrated. The obtained residue was purified by preparative HPLC to give the title compound (38.3 mg, yield 11%) as a white solid. melting point 234-236° C.

reactant | triphenylphosphine oxide | 790 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 238 μL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N-[2-(benzylthio)-3-morpholinopropyl]-7-[methyl(pyridin-3-ylsulfonyl)amino]-1H-indole-2-carboxamide | 410 mg | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1C=NC=CC1)C)CN1CCOCC1 | C29H33N5O4S2
reactant | dimethylsulfide | 52 μL | CSC | C2H6S
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | brine | 100 mL | [Cl-].[Na+].O
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | N-methyl-N-{2-[5-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}pyridine-3-sulfonamide | 38.3 mg, yield 11% | CN(S(=O)(=O)C=1C=NC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)CN1CCOCC1 | C22H25N5O3S2
